US05563141
To a solution of 2-benzofuranoic acid methyl ester in carbon disulphide (240 ml) cooled to 5° C. was added acetyl chloride (70 ml) followed portionwise over 1 hour by aluminium trichloride (40 g). The mixture was heated under reflux for 42 hours before cooling and decanting the carbon disulphide. The residual complex was destroyed by the addition of iced water (50 ml) and 2N HCl (50 ml). The resulting mixture was extracted with ethyl acetate (3×200 ml). The organic layers were combined, washed with water (100 ml), dried (MgSO4) and concentrated. The residue was purified by flash column chromatography, eluting with ethyl acetate / hexane (10:90 to 40:60, v/v), to give methyl 5-acetylbenzofuran-2-carboxylate as a solid (3.099 g); NMR 2.68 (3H,s), 4.00(3H,s), 7.6-8.35(4H,m).

reactant | 2-benzofuranoic acid methyl ester | COC(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O3
reactant | acetyl chloride | 70 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminium trichloride | 40 g | [Cl-].[Cl-].[Cl-].[Al+3]
solvent | carbon disulphide | 240 ml | C(=S)=S | CS2
product | methyl 5-acetylbenzofuran-2-carboxylate | 3.099 g | C(C)(=O)C=1C=CC2=C(C=C(O2)C(=O)OC)C1 | C12H10O4
